US05698691
(4) N-[2-(2-Chlorophenyl)-2-(2-nitro-5-chlorophenyl)ethyl]glycine methyl ester
To a solution of α-(5-chloro-2-nitrophenyl)-2-chlorophenylacetaldehyde (1.68 g) in methanol(15 ml) were added glycine methyl ester hydrochloride (0.69 g) and sodium acetate (0.45 g). The mixture was stirred for 30 minutes at room temperature, to which was added sodium cyanoborohydride (0.35 g). To this mixture was added hydrogen chloride for 5 minutes. This mixture solution was stirred for 3 hours at 50° C., to which was added a 1N aqueous solution of sodium hydroxide (50 ml), followed by extraction with dichloromethane. The extract solution was washed with water, then the solvent was distilled off. The residual oily product was purified by means of a silica-gel column chromatography (hexane:acetic acid ethyl ester=3:1 v/v as an eluent) to give 1.1 g of an oily compound.

reactant | α-(5-chloro-2-nitrophenyl)-2-chlorophenylacetaldehyde | 1.68 g | ClC=1C=CC(=C(C1)C(C=O)C1=C(C=CC=C1)Cl)[N+](=O)[O-] | C14H9Cl2NO3
reactant | glycine methyl ester hydrochloride | 0.69 g | Cl.COC(CN)=O
reactant | sodium acetate | 0.45 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 0.35 g | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | N-[2-(2-Chlorophenyl)-2-(2-nitro-5-chlorophenyl)ethyl]glycine methyl ester | 1.1 g | COC(CNCC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])C1=C(C=CC=C1)Cl)=O | C17H16Cl2N2O4
